Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
amlodipine
 
Attending: ___.
 
Chief Complaint:
right ___ rib fractures
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ ___ man who 
presents with pain in his right flank and back following a fall 
the day before.  The history was gathered through a telephone
interpreter.  Yesterday (___), he fell forward while in 
the bathroom, hitting his right flank and back against the sink. 
 He did not hit the floor, strike his head, or lose 
consciousness. He
had no prodromal lightheadedness or vertigo. He had no aura or 
seizure-like activity.

Currently, he has right flank and back pain at the area where he 
struck the sink.  The pain worsens with breathing or sneezing.  
He denies pain in his abdomen and anywhere else in his body.  He 
denies fevers or chills, headache, visual changes, shortness of 
breath, palpitations, nausea, vomiting, diarrhea.
 
Past Medical History:
PMH:
Stage III CKD
Hypertension
Hyperlipidemia
Right knee pain
BPH
memory loss
excessive daytime sleepiness

PSH:
tonsillectomy
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Admission:
========
Vitals: 97.5  71  132 / 87  1896RA
GEN: A&O, NAD
HEENT: MMM, PERRL, EOMI
CV: RRR
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding.
Back: Tenderness to palpation over the lower right posterior 
ribs.  No tenderness to palpation over the spinous processes.
Ext: WWP

Discharge:
========
Vitals: 97.4  65  120 / 77  18 96 RA
General: NAD
HEENT: MMM, PERRL, EOMI
CV: RRR
PULM: CTAB
ABD: soft, NT/ND
Back: Some tenderness  to palpation over the lower right 
posterior ribs.  No tenderness to palpation over the spinous 
processes.
Ext: WWP
Neuro: AAOx3
 
Pertinent Results:
Admission:
========
___ 03:32PM BLOOD WBC-9.2# RBC-6.82* Hgb-14.2 Hct-45.5 
MCV-67* MCH-20.8* MCHC-31.2* RDW-17.8* RDWSD-36.6 Plt ___
___ 03:32PM BLOOD Neuts-74.2* Lymphs-14.6* Monos-9.2 
Eos-1.2 Baso-0.4 Im ___ AbsNeut-6.78* AbsLymp-1.34 
AbsMono-0.84* AbsEos-0.11 AbsBaso-0.04
___ 03:32PM BLOOD ___ PTT-32.3 ___
___ 03:32PM BLOOD Glucose-87 UreaN-24* Creat-1.3* Na-138 
K-5.3* Cl-101 HCO3-23 AnGap-14
___ 03:32PM BLOOD ALT-37 AST-38 AlkPhos-70 TotBili-0.6
___ 03:32PM BLOOD Albumin-4.6
___ 03:32PM BLOOD K-4.7

Imaging:
======

CT Head w/o Contrast (___) Impression:
No acute intracranial abnormality.

CT C-Spine w/o Contrast (___) Impression:
No fracture.  Multilevel degenerative change with subtle 
alignment
abnormalities as detailed above, likely chronic.

CT Torso w/ contrast (___) Impression:
1. Acute right lateral tenth and posterior eleventh and twelfth 
rib fractures.
2. No additional sequelae of trauma.
3. Hepatic steatosis.
 
Brief Hospital Course:
The patient was admitted to the Acute Care Surgery Service on 
___ from the Emergency Department for right ___ rib 
fractures. Pain was well controlled. The patient tolerated a 
regular diet. The patient voided without problem. During this 
hospitalization, the patient ambulated early and frequently, was 
adherent with respiratory toilet and incentive spirometry, and 
actively participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay. Physical therapy evaluated this patient and recommended 
that he can be discharged home without services.
 
At the time of discharge on ___ the patient was doing well, 
afebrile with stable vital signs. The patient was tolerating a 
regular diet, ambulating, voiding without assistance, and pain 
was well controlled.  The patient was discharged home without 
services. The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan. 
 
Medications on Admission:
Active Medication list as of ___:
 
Medications - Prescription
ACID REFLUX MEDICATION - Dosage uncertain -  (Prescribed by 
Other Provider)
FINASTERIDE - finasteride 5 mg tablet. 1 tablet(s) by mouth 
Daily
LISINOPRIL - lisinopril 20 mg tablet. 1 tablet(s) by mouth once 
a day qhs -  (Prescribed by Other Provider)
SIMVASTATIN - simvastatin 10 mg tablet. 1 tablet(s) by mouth 
daily -  (Prescribed by Other Provider)
 
Medications - OTC
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 
1,000 unit capsule. 1 capsule(s) by mouth Daily -  (OTC)
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN pain 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every four (4) 
hours Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine HCl-menthol [Aflexeryl-LC] 4 %-1 % 1 patch to 
right rib cage every morning Disp #*1 Package Refills:*0 
4.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
5.  Finasteride 5 mg PO DAILY  
6.  Lisinopril 20 mg PO QHS  
7.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fall
Acute right lateral tenth and posterior eleventh and twelfth rib 
fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* Your injury caused ___ rib fractures which can cause severe 
pain and subsequently cause you to take shallow breaths because 
of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___